Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Optiray 350 / gabapentin
 
Attending: ___.
 
Chief Complaint:
Hemoptysis
 
Major Surgical or Invasive Procedure:
___: Bronchoscopy 

 
History of Present Illness:
Ms ___ is a ___ yo F with COPD on oxygen and multifocal 
adenocarcinoma of the lung followed conservatively with imaging 
who is transferred from OSH with dyspnea and new hemopysis.  
 
Patient reports several weeks of increasing congestion and 
headaches. On ___ she noticed increasing dyspnea on exertion 
and at rest. The next day, she was started on amoxicillin by her 
PCP for possible sinus infection. She developed worsening cough 
and by ___ she noted bloody streaks in sputum, and then some 
small clots. On ___ developed worsening hemoptysis and 
presented to OSH ED. There, she was hemodynamically stable with 
HCT 37 on presentation. Non-contrast CT of the lungs was 
perfromed which showed known right nodule and multiple 
progressive left sided nodules. She was admitted to the floor 
where she had two episodes of small hemoptysis, which has since 
stopped. She was given a dose of 60mg prednisone for presumed 
COPD exacerbation. She is being transferred to ___ for further 
management.  
 
On arrival to the floor, patient denies recent fevers or chills. 
She does note chronic night sweats, which are unchanged. She 
also reports chronic pleuritic chest pain, which has worsened 
over the last several months. She continues to have mild cough 
without hemoptysis and dyspnea at rest. She has baseline mild 
orthopnea and requires 2.5L O2 at home. She reports a good 
appetitis and denies nausea, vomiting or diarrhea. Also denies 
dysuria, new joint pains, or new rashes. ROS is otherwise 
unremarkable.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
--___ underwent left upper lobectomy for stage IB non-small 
cell lung cancer at ___. She was started on 
selenium trial at that time for prevention of future lung 
cancers.  
--___, a follow-up CT scan demonstrated a new 0.8 cm 
nodule in the right upper lobe.  
--___, Ms. ___ underwent a wedge resection for this 
lesion. She was also treated with brachytherapy at that time. 
This lesion was consistent with non-small cell lung cancer as 
well. Unfortunately, we do not have the slides or path reports 
for these lesions.  
-- ___ CT chest showed a 1.5 cm right upper lobe lung 
lesion in the anterior wall of a longstanding cystic lesion. It 
is unclear from the notes whether or not this nodule was a 
remnant of the lesion found in ___ or if it was a different 
focus of disease. --___ PET-CT demonstrated this 
nodule, which had an SUV of 2.0. There was no mediastinal or 
hilar adenopathy. Ms. ___ was evaluated by thoracic surgery at 
___, who felt that due to her poor pulmonary function, she was 
too risky a candidate for surgical intervention.  
--___ Ms. ___ underwent CT-guided biopsy of the right 
upper lobe lesion, which showed well-differentiated 
adenocarcinoma. Tumor cells were positive for TTF-1 and CK7 and 
focally positive for CK20. Ms. ___ then underwent RFA by Dr. 
___ tolerated this fairly well.  
--___: A PET-CT performed on ___ showed a 3.8 x 
2.0 cm mass in the peripheral right upper lobe with an SUV of 
11.5 and as such, the decision was made to treat Ms. ___ with 
CyberKnife ___ for salvage of local persistence of the right 
upper lobe lesion. Ms. ___ finished CyberKnife therapy on 
___, and continued to be followed with serial CT 
scans.  
--___: A CT scan of the chest, and another one on ___, showed 3 slowly growing left lung lesions, likely foci of 
metastases.  
-- ___: CT showed that these lesions were continuing to grow 
in size, now measuring: 9 x 9 mm, 8 x 9 mm and 10 x 8 mm (all 
about 4mm in ___.  
-- ___: A CT scan of the chest showed no mediastinal or 
hilar adenopathy; the right upper lobe lung mass, previously 
treated with RFA and then CyberKnife ___ showed an increase in 
size to 5.3 x 2.9 cm compared with 2.2 x 1.6 cm on the prior 
scan from ___ left lower lobe nodules had all 
increased in size to 1.2 x 1.1 cm, 1.4 x 1.2 cm, and 1.5 x 1.1 
cm compared with 0.9 x 0.9 cm, 1.1 x 0.8 cm, and 1.0 x 1.0 cm 
respectively.  
-- ___: CT scan of the chest, without contrast, showed no 
mediastinal or hilar adenopathy; there was mild increase in the 
right upper lobe lung lesion, which had previously been treated 
with CyberKnife, now measuring 3.5 x 2.0 cm compared with ___ three solid nodules clustered in the left lower lobe 
of the lung had all increased in size, with a reference lesion 
measuring 1.6 x 1.5 cm compared with 1.5 x 1.1 cm on the prior 
scan; there were no new lesions.  
-- ___: followup CT scan of the chest without contrast, 
which was compared to a prior examination from ___ and showed no hilar or mediastinal adenopathy; there was 
slight increase in soft tissue density in the region of the 
fiducial marker in the right upper lobe of unclear significance; 
three solid lobulated nodules in the left lower lobe, the 
largest of which measured 2.7 x 1.9 cm, previously measured 1.6 
x 1.5 cm; all three lesions showed interval growth and are 
becoming more confluent; there were no new lesions; there was 
evidence of severe emphysema.
  
PAST MEDICAL HISTORY:  
- CHRONIC OBSTRUCTIVE PULMONARY DISEASE (?FEV1, but likely 
severe)  
- HYPOTHYROIDISM  
- HYPERLIPIDEMIA  
- PSORIASIS  
- DEPRESSION (h/o suicide attempt at age ___  
- OSTEOPENIA  

 
Social History:
___
Family History:
Son: ESOPHAGEAL CANCER  
Father: ___, COLON CANCER  

 
Physical Exam:
ADMISSION EXAM:  
VS: 98.4 124/60 80 20 100%___  
GENERAL: Pleasant, well appearing woman in NAD  
HEENT: NC/AT, EOMI, PERRL, dry MM  
CARDIAC: RRR, normal S1 & S2, without murmurs, S3 or S4  
LUNG: Speaking quickly in short sentences. Moderate air movement 
without signficant wheeze or adventitial sound.  
ABD: +BS, soft, NT/ND, no rebound or guarding  
EXT: No lower extremity pitting edema  
PULSES: 2+DP pulses bilaterally  
NEURO: CN II-XII intact AAOx3 FTN and HTS intact  
SKIN: Warm and dry, without rashes  

DISCHARGE EXAM:
VS: 98.1 137/70 80 20 100% on 3L NC
GENERAL: Pleasant, well appearing woman in NAD  
HEENT: NC/AT, EOMI, PERRL, dry MM  
CARDIAC: RRR, normal S1 & S2, without murmurs, S3 or S4  
LUNG: Speaking quickly in short sentences. Moderate air movement 
without signficant wheeze or adventitial sound.  
ABD: +BS, soft, NT/ND, no rebound or guarding  
EXT: No lower extremity pitting edema  
PULSES: 2+DP pulses bilaterally  
NEURO: CN II-XII intact AAOx3 FTN and HTS intact  
SKIN: Warm and dry, without rashes  

 
Pertinent Results:
___ 09:00PM   ___ PTT-27.6 ___
___ 09:00PM   PLT COUNT-203
___ 09:00PM   NEUTS-92.0* LYMPHS-5.0* MONOS-2.6 EOS-0.4 
BASOS-0
___ 09:00PM   WBC-13.8*# RBC-3.85* HGB-11.7* HCT-34.4* 
MCV-89 MCH-30.2 MCHC-33.9 RDW-14.1
___ 09:00PM   CALCIUM-9.6 PHOSPHATE-2.9 MAGNESIUM-2.1
___ 09:00PM   cTropnT-<0.01
___ 09:00PM   ALT(SGPT)-12 AST(SGOT)-11 ALK PHOS-75 TOT 
BILI-0.2
___ 09:00PM   estGFR-Using this
___ 09:00PM   GLUCOSE-144* UREA N-21* CREAT-0.6 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-31 ANION GAP-12

___HEST W/O CONTRAST  
Continued interval progression of malignancy: three growing left 
lower lobe pulmonary nodules and mild increase in peripheral 
bulk of the right upper lobe lung mass. No new lesions 
identified.  

___ Imaging BONE SCAN  
No definite evidence of metastatic disease.  

___hest without contrast  
"Enlarging pulmonary densities bilaterally as detailed, one area 
on the right and 4 areas on the left, consistent with worsening 
neoplasm"  

 
Brief Hospital Course:
Ms ___ is a ___ yo F with COPD on oxygen and multifocal 
adenocarcinoma of the lung followed conservatively with imaging 
who is transferred from OSH with dyspnea and new hemopysis.  
 
ACUTE ISSUES:  
# Hemoptysis: Differential diagnosis includes infection vs 
bleeding from tumor mass vs PE. Favor tumor given lack of clear 
infectious symptoms and no clear evidence of DVT on exam. In 
comparison with her prior scans, it seems that there has been 
interval worsening of her tumor burden. The interventional 
pulmonary service was consulted and a bronchoscopy was performed 
on ___ for possible coagulation of bleeding. Findings included 2 
small telangiectasias which were coagulated and no large source 
of bleeding that could be identified. She was treated for 
possible community acquired pneumonia with ceftriaxone/azithro 
as her scans are difficult to to evaluate for infection given 
multifocal malignancy. She never had an elevated WBC count or 
fevers while hospitalized but in light of her worsening dyspnea 
on exertion and her hemoptysis she will continue to be covered 
with levofloxacin as an outpatient to complete a course of 
pneumonia with the last day of antibiotics being ___. She was 
encouraged to return to ___ promptly if she has any further 
episodes of hemoptysis.

# Dyspnea: Multiple possible etiologies: could consider 
worsening tumor burden +/- PNA, pneumonitis from hemorrhage, 
COPD exacerbation, PE, or cardiac cause. Favor tumor burden with 
possible pneumonitis. Notably, is on chronic prednisone without 
PCP prophylaxis so bactrim was initiated while admitted and 
should be continued as an outpatient. There was low concern for 
cardiac etiolgoy of her dyspnea as she had negative troponins on 
admission and had no events on telemetry. Her home COPD regimen 
of advair, prednisone, tiotroprium, and albuterol nebs PRN was 
continued. 

# Lung Cancer-It seems that her tumor burden is increasing which 
suggests she may require treatment in the future. She should 
follow up with her primary oncologist to discuss her options if 
she desires treatment.  

# Hypothryoidism-Stable, home levothyroxine continued.  

Transitional Issues:
-The patient was treated with bactrim for PCP prophylaxis as she 
has been taking chronic prednisone without PCP ___. She 
should continue this medication as long as she is receiving 
prednisone.
-Please ensure the patient is able to cope at home as she has 
been more dyspneic recently and reports struggling to shower 
without her oxygen. She may require some services at home 
although she refuses help at this time.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
2. Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral BID 
3. Fluticasone-Salmeterol Diskus (250/50)  2 INH IH BID 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Metoprolol Tartrate 25 mg PO BID 
6. PredniSONE 10 mg PO DAILY 
7. Tiotropium Bromide 1 CAP IH DAILY 
8. Verapamil SR 180 mg PO Q24H 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Fluticasone-Salmeterol Diskus (250/50)  2 INH IH BID 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Metoprolol Tartrate 25 mg PO BID 
4. PredniSONE 10 mg PO DAILY 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Verapamil SR 180 mg PO Q24H 
7. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
8. Aspirin 81 mg PO DAILY 
9. Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral BID 
10. Levofloxacin 750 mg PO DAILY Duration: 4 Days 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth daily 
Disp #*4 Tablet Refills:*0
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Primary: Hemoptysis, Lung Cancer, Emphysema

# Secondary: Non small cell lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

You were transfered to ___ because you were coughing up blood. 
This resolved on its own. There are two likely casues of this: 
(1) infection, which we are treating with antibiotics and (2) 
your cancer, for which you underwent a bronchoscopy. This didn't 
show any active bleeding, though two small potential areas of 
bleed were cauterized. As you are no longer coughing up blood, 
we are sending you home with antibotics. Please continue taking 
your levofloxacin as prescribed through ___. We also are 
sending you home with a new antibiotic called bactrim because 
you are on long term steroids and this antibiotic can prevent a 
dangerous lung infection. You should take it daily while you are 
on prednisone. If you cough up blood again, come to the hospital 
immeadiately, so a bronchoscopy can be done with 24 hours of the 
bleed. We wish you all the best in your continued care.

Sincerely,

Your ___ Team
 
Followup Instructions:
___